US04554272
Synthesis of 2-[2-aminoethanoyl]aminophenyl-3,1-benzoxazin-4-one hydrochloride
2-[2-(tert-butyloxycarbonyl)aminoethanoyl]aminophenyl-3,1-benzoxazin-4-one (45 mg) was reacted in ethyl acetate with hydrogen chloride under reaction conditions as described for the synthesis of compounds of Example 9, Method A, to afford the above-titled compound.

reactant | 2-[2-(tert-butyloxycarbonyl)aminoethanoyl]aminophenyl-3,1-benzoxazin-4-one | 45 mg | C(C)(C)(C)OC(=O)NCC(=O)NC1=C(C=CC=C1)C1=NC2=C(C(O1)=O)C=CC=C2 | C21H21N3O5
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-aminoethanoyl]aminophenyl-3,1-benzoxazin-4-one hydrochloride | Cl.NCC(=O)NC1=C(C=CC=C1)C1=NC2=C(C(O1)=O)C=CC=C2 | InChI=1S/C16H13N3O3.ClH/c17-9-14(20)18-12-7-3-1-5-10(12)15-19-13-8-4-2-6-11(13)16(21)22-15;/h1-8H,9,17H2,(H,18,20);1H
